US07615642B2
Step B: Morpholine-2-carboxylic acid hydrochloride
(R,S)-Boc-2-carboxymorpholine (3 g, 13 mmol) was added to 4 N HCl in dioxane (15 mL) at 0° C. The reaction mixture was allowed to warm to room temperature and stirred overnight. Removal of solvent produced 2.2 g (100%) of the desired product as an HCl salt. 1H NMR (400 MHz, METHANOL-D4) δ 2.79-2.86 (m, 1 H), 2.87-2.94 (m, 2 H), 3.21 (dd, J=12.50, 3.52 Hz, 1 H), 3.51 (m, 1 H), 3.79 (m, 1 H), 4.07 (dd, J=9.77, 3.12 Hz, 1 H).

reactant | (R,S)-Boc-2-carboxymorpholine | 13 mmol, 3 g | CC(C)(C)OC(=O)N1CCOC(C1)C(=O)O | C10H17NO5
reactant | HCl | 4 N | Cl | ClH
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | Morpholine-2-carboxylic acid hydrochloride | 2.2 g, 100% | Cl.N1CC(OCC1)C(=O)O | InChI=1S/C5H9NO3.ClH/c7-5(8)4-3-6-1-2-9-4;/h4,6H,1-3H2,(H,7,8);1H
